US07420001B2
To a solution of 0.291 g (0.98 mmol) of 4-bromomethyl-3-methylbenzofuran-2-carboxylic acid ethyl ester in 5 mL of DMSO was added 0.074 g (1.96 mmol) of sodium borohydride and the reaction was stirred at room temperature for 2 h. The reaction was diluted with water and extracted with ether. The organics were washed with water and brine, filtered and concentrated in vacuo. The residue was chromatographed on silica gel eluting with ethyl acetate/hexanes (1:10) to provide 0.209 g of 4-methyl-3-methylbenzofuran-2-carboxylic acid ethyl ester.

reactant | 4-bromomethyl-3-methylbenzofuran-2-carboxylic acid ethyl ester | 0.98 mmol, 0.291 g | C(C)OC(=O)C=1OC2=C(C1C)C(=CC=C2)CBr | C13H13BrO3
reactant | sodium borohydride | 1.96 mmol, 0.074 g | [BH4-].[Na+]
solvent | DMSO | 5 mL | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 4-methyl-3-methylbenzofuran-2-carboxylic acid ethyl ester | 0.209 g | C(C)OC(=O)C=1OC2=C(C1C)C(=CC=C2)C | C13H14O3
